US04956370
248 g of the 1,2-bistrifluoromethoxybenzene thus obtained were allowed to drop at 0° C. in the course of 2 hours into 250 g of a mixture of 33% by weight of nitric acid and 67% by weight of sulphuric acid. The mixture was subsequently stirred at 0° C. for 5 hours, then added to ice water, and the organic phase was separated off and distilled. 284 g of 99% strength 3,4-bistrifluoromethoxynitrobenzene were obtained.

reactant | 1,2-bistrifluoromethoxybenzene | 248 g | FC(OC1=C(C=CC=C1)OC(F)(F)F)(F)F | C8H4F6O2
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
product | 3,4-bistrifluoromethoxynitrobenzene | FC(OC=1C=C(C=CC1OC(F)(F)F)[N+](=O)[O-])(F)F | C8H3F6NO4
